US06180113B2
a) 9,9,9,8,8,7,7,6,6-Nonafluoro-3-oxa-nonanoic acid-t-butyl ester
29.54 g (151.5 mmol) of bromoacetic acid-tert-butyl ester is added in drops to a mixture of 20 g (75.73 mmol) of 1H,1H,2H,2H-perfluorohexan-1-ol and 2.57 g (7.57 mmol) of tetrabutylammonium hydrogen sulfate in 300 ml of 60% aqueous potassium hydroxide solution/200 ml of toluene while being stirred vigorously at 0° C. It is stirred for 1 hour at 0° C. 100 ml of toluene is added, the aqueous phase is separated and extracted twice with 50 ml of toluene. The combined organic phases are dried on magnesium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel (mobile solvent: hexane/dichloromethane/acetone=20/10/1).

reactant | bromoacetic acid-tert-butyl ester | 151.5 mmol, 29.54 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 1H,1H,2H,2H-perfluorohexan-1-ol | 75.73 mmol, 20 g | C(CO)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C6H5F9O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 7.57 mmol, 2.57 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | potassium hydroxide | 300 ml | [OH-].[K+]
product | 9,9,9,8,8,7,7,6,6-Nonafluoro-3-oxa-nonanoic acid-t-butyl ester | C(C)(C)(C)OC(COCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O | C12H15F9O3
